US07268154B2
19.1 1-(cis-4-tert-Butoxycarbonylamino-cyclohexyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester
To a THF (30 ml) solution under Ar of (cis-4-azido-cyclohexyl)carbamic acid tert-butyl ester (3.00 g) and propiolic acid methyl ester (1.05 g) were added CuI (2.38 g) and DIPEA (3.18 ml). The resulting slurry was stirred at RT over night. After dilution with EtOAc (200 ml) the mixture was washed with H2O (200 ml), dried over Na2SO4 and the solvent was evaporated. Chromatography (silica, CH2Cl2/MeOH 95:5) yielded 2.63 g (65%) of product. White crystals. MS 325.4 (95, [M+H]+), 269.4 (100, [M−tBu].+).

reactant | (cis-4-azido-cyclohexyl)carbamic acid tert-butyl ester | 3.00 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N=[N+]=[N-])=O | C11H20N4O2
reactant | propiolic acid methyl ester | 1.05 g | COC(C#C)=O | C4H4O2
reactant | DIPEA | 3.18 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | CuI | 2.38 g | [Cu]I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(cis-4-tert-Butoxycarbonylamino-cyclohexyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | 2.63 g, 65% | COC(=O)C=1N=NN(C1)[C@@H]1CC[C@@H](CC1)NC(=O)OC(C)(C)C | C15H24N4O4
